US09301526B2
Trimethylsilylcyanid (TMSCN) (69.3 g, 0.7 mol) was added to a solution of 4-chloro-5-(chloromethyl)-2-(trifluoromethyl)pyridine (Int-13) (80 g, 0.348 mol) and Tetra-n-butylammoniumfluoride (129.5 g, 0.7 mol) in acetonitrile (1.5 L) slowly. Then the mixture was stirred at 20-30° C. for 2 hours. Thin layer chromatography (petroleum ether: EtOAc=3:1) showed all of starting material was consumed. The mixture was concentrated and the residue was purified by silica gel chromatography eluted with petroleum ether: EtOAc=20:1˜3:1 to yield [4-chloro-6-(trifluoromethyl)pyridin-3-yl]acetonitrile (Int-14) (50 g, 60% from NMR, 39% of yield) as yellow syrup.

reactant | Trimethylsilylcyanid | 0.7 mol, 69.3 g | C[Si](C)(C)C#N | C4H9NSi
reactant | 4-chloro-5-(chloromethyl)-2-(trifluoromethyl)pyridine | 0.348 mol, 80 g | ClC1=CC(=NC=C1CCl)C(F)(F)F | C7H4Cl2F3N
reactant | Tetra-n-butylammoniumfluoride | 0.7 mol, 129.5 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | acetonitrile | 1.5 L | C(C)#N | C2H3N
product | [4-chloro-6-(trifluoromethyl)pyridin-3-yl]acetonitrile | 50 g, 60% | ClC1=C(C=NC(=C1)C(F)(F)F)CC#N | C8H4ClF3N2
